US06835731B2
To a solution of (2-hydroxyphenyl)-terephthalamic acid methyl ester (1.31 g, 4.8 mmol) in THF (50 mL) at −78° C. was added a solution of DIBAL-H (27 mL, 1.0 M in THF). The reaction was allowed to warm to room temperature, stirred for 1 h and quenched with a saturated potassium sodium tartrate solution (15 mL). The biphasic mixture was stirred vigorously for 1 h, the phases separated and the organic layer dried (MgSO4), filtered, concentrated and purified by column chromatography on silica gel (5% MeOH/CH2Cl2) to give 4-hydroxymethyl-N-(2-hydroxyphenyl)-benzamide (0.58 g, 50%). 1H NMR (CDCl3) δ 1.83 (t, 1 H (OH)), 4.82 (d, 2H, J=6.0 Hz), 6.93 (t, 1H, J=7.8 Hz), 7.08 (t, 1H, J=7.8 Hz), 7.19 (d, 2H, J=7.8 Hz), 7.53 (d, 2H, J=6.0 Hz), 7.92 (d, 2H, J=7.8 Hz), 8.07 (br, 1H), 8.62 (s, 1H).

reactant | (2-hydroxyphenyl)-terephthalamic acid methyl ester | 4.8 mmol, 1.31 g | COC(C1=C(C=C(C(=O)N)C=C1)C1=C(C=CC=C1)O)=O | C15H13NO4
reactant | DIBAL-H | 1.0 M, 27 mL | CC(C)C[AlH]CC(C)C
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-hydroxymethyl-N-(2-hydroxyphenyl)-benzamide | 0.58 g, 50% | OCC1=CC=C(C(=O)NC2=C(C=CC=C2)O)C=C1 | C14H13NO3
